US06586617B1
To a suspension of 4′-chloro-4-ethylbenzenesulfonanilide (4.70 g (15.9 mmol)) in 15 ml of acetic acid, 97% fuming nitric acid (0.69 ml (16.1 mmol)) was added dropwise with stirring at room temperature. The resulting mixture was stirred at 50° C. for 30 minutes and then allowed to cool to room temperature. Water (100.0 ml) was added to the reaction mixture and the resulting crystals were filtered and washed with waterto give 5.35 g (99%) of 4′-chloro-4-ethyl-2′-nitrobenzenesulfonanilide as pale yellow crystals.

reactant | 4′-chloro-4-ethylbenzenesulfonanilide | 15.9 mmol, 4.70 g | ClC1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)CC)C=C1 | C14H14ClNO2S
reactant | nitric acid | 16.1 mmol, 0.69 ml | [N+](=O)(O)[O-] | HNO3
reactant | Water | 100.0 ml | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4′-chloro-4-ethyl-2′-nitrobenzenesulfonanilide | 5.35 g, 99% | ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)CC)C=C1)[N+](=O)[O-] | C14H13ClN2O4S
